US05278316
α-Trimethylsilylethoxymethyl-DL-tryptophan methyl ester (1.0 g, 2.8 mmol) was stirred for 48 hours at room temperature in trifluoroacetic acid (10 mL). After evaporation of the acid in vacuo, the oily residue was treated with aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was dried over Na2SO4 and evaporated to give an oil. Trituration with ethyl acetate gave 0.45 g (655) of α-hydroxymethyl-DL-tryptophan methyl ester, mp 148°-149° C.

reactant | α-Trimethylsilylethoxymethyl-DL-tryptophan methyl ester | 2.8 mmol, 1.0 g | COC(C(NCOC(C)[Si](C)(C)C)CC1=CNC2=CC=CC=C12)=O | C18H28N2O3Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | α-hydroxymethyl-DL-tryptophan methyl ester | 0.45 g | COC(C(N)(CC1=CNC2=CC=CC=C12)CO)=O | C13H16N2O3
